US04757081
In 450 ml of xylene were suspended 15.3 g of 1-(2-chlorophenyl)-2-methyl-5-(2-fluoro-phenyl)-1,3,5-pentanetrione, 6.4 g of aniline, 6.6 g of para-toluenesulfonic acid and 85 g of Molecular Sieves 5A, followed by refluxing the resultant mixture for 8 hours. Xylene was distilled off from the reaction mixture and 300 ml of chloroform was added to the residue. The mixture obtained was filtered and the filtrate was washed first with 10% hydrochloric acid and then with a 10% aqueous solution of sodium hydroxide. After washing the chloroform phase further with water, the solution in chloroform was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate-n-hexane, 1:3) to afford crude crystals. The crystals were recrystallized from ethyl acetate, yielding 4.5 g of 2-(2-chlorophenyl)-6-(2-fluorophenyl)-3-methyl-1-phenyl-4(1H)-pyridinone having a melting point of 182°-183° C.

reactant | 1-(2-chlorophenyl)-2-methyl-5-(2-fluoro-phenyl)-1,3,5-pentanetrione | 15.3 g | ClC1=C(C=CC=C1)C(C(C(CC(=O)C1=C(C=CC=C1)F)=O)C)=O | C18H14ClFO3
reactant | aniline | 6.4 g | NC1=CC=CC=C1 | C6H7N
reactant | para-toluenesulfonic acid | 6.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 450 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-chlorophenyl)-6-(2-fluorophenyl)-3-methyl-1-phenyl-4(1H)-pyridinone | 4.5 g | ClC1=C(C=CC=C1)C=1N(C(=CC(C1C)=O)C1=C(C=CC=C1)F)C1=CC=CC=C1 | C24H17ClFNO
